US07300951B2
E. 4,4,4-Trifluoro-2-(2,2,2-trifluoroethyl)-butan-1-ol
To a suspension of LAH (1.0 g) in Et2O (100 mL) at 25° C. was added slowly 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ethyl ester (5.0 g, 19.8 mmol). The resulting mixture was stirred at reflux for 4 h. The cooled reaction mixture was quenched sequentially with water (1.0 mL), 15% NaOH in water (1.0 mL) and water (3.0 mL). After the resulting mixture was allowed to stir at 25° C. for 17 h, Na2SO4 (20 g) was added and stirring at 25° C. continued for 1 h. The resulting suspension was filtered through a pad of the Celite® reagent and Na2SO4. The filtrate was distilled to remove all solvents to afford the desired product as a colorless liquid (1.7 g, 41%). Mass Spectrum (−ESI): 269 [M+OAc]−

reactant | LAH | 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ethyl ester | 19.8 mmol, 5.0 g | C(C)OC(C(CC(F)(F)F)CC(F)(F)F)=O | C8H10F6O2
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 4,4,4-Trifluoro-2-(2,2,2-trifluoroethyl)-butan-1-ol | 1.7 g, 41% | FC(CC(CO)CC(F)(F)F)(F)F | C6H8F6O
